US06271380B1
Synthesis of 1-[(Benzyloxy)methyl]4,5-dibromo-2-ethylimidazole
To a mechanically stirred solution of 4,5-dibromo-2-ethylimidazole (25.4 g, 0.1 mole,) in anhydrous DMF (250 mL) was treated with K2CO3 (69.1 g, fw=138.2, 0.5 moles, 5 equiv.) followed by dropwise addition of benzyl chloromethyl ether (18.5 g, 0.11 moles, 93% pure, TCI, fw=156.61) and stirred overnight at room temp under nitrogen for 20 h. TLC (30:70 EtOAc/hexane) revealed absence of starting material imidazole (Rf=0.2) along with formation of product (Rf=0.71). The reaction mixture was filtered, washed the solid with dichloromethane and the combined filterate was evaporated under reduced pressure and purified the crude (47 g) by flash column chromatography (dichloromethane eluent) to afford 31.75 g (85%) of colorless oil. Mass spectrum (m/z=375, M+H).

reactant | 4,5-dibromo-2-ethylimidazole | 0.1 mole, 25.4 g | BrC=1N=C(NC1Br)CC | C5H6Br2N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl chloromethyl ether | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-[(Benzyloxy)methyl]4,5-dibromo-2-ethylimidazole | 31.75 g, 85% | C(C1=CC=CC=C1)OCN1C(=NC(=C1Br)Br)CC | C13H14Br2N2O
